US09340538B2
Ethyl 6-(((S)-2-((((S)-2-amino-3-methylbutanoyl)oxy)methyl)morpholino)methyl)-4-(2-bromo-4-fluorophenyl)-2-(thiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate
Ethyl 4-(2-bromo-4-fluorophenyl)-6-(((S)-2-(hydroxymethyl)morpholino)methyl)-2-(thiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate (1 g, 1.9 mmol) was reacted with (S)-2-((tert-butoxycarbonyl)amino)-3-methylbutanoic acid (0.63 g, 2.9 mmol) according to the procedure as described in Example 49 to give the title compound as a yellow solid (0.57 g, 47%). The compound was characterized by the following spectroscopic data:

reactant | Ethyl 4-(2-bromo-4-fluorophenyl)-6-(((S)-2-(hydroxymethyl)morpholino)methyl)-2-(thiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate | 1.9 mmol, 1 g | BrC1=C(C=CC(=C1)F)C1N=C(NC(=C1C(=O)OCC)CN1C[C@H](OCC1)CO)C=1SC=CN1 | C22H24BrFN4O4S
reactant | (S)-2-((tert-butoxycarbonyl)amino)-3-methylbutanoic acid | 2.9 mmol, 0.63 g | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)C(C)C | C10H19NO4
product | Ethyl 6-(((S)-2-((((S)-2-amino-3-methylbutanoyl)oxy)methyl)morpholino)methyl)-4-(2-bromo-4-fluorophenyl)-2-(thiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate | 0.57 g, 47% | N[C@H](C(=O)OC[C@H]1OCCN(C1)CC1=C(C(N=C(N1)C=1SC=CN1)C1=C(C=C(C=C1)F)Br)C(=O)OCC)C(C)C | C27H33BrFN5O5S
